US04703106
A solution of 3.60 g of BOC-Thr(Bzl)-Tyr(Bzl)-Pro-OBzl dissolved in 20 ml of THF was mixed under cooling and stirring with 5.83 ml of 1N sodium hydroxide, and the mixture was stirred at room temperature for 3 hours. Then, 1N hydrochloric acid was added to adjust pH to 7, and the mixture was concentrated under reduced pressure to evaporate THF. The residual aqueous solution was diluted with water, washed with diethyl ether, then adjusted to pH 2 with addition of 1N hydrochloric acid and extracted twice with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was crystallized from diethyl ether-n-hexane to obtain a crude product. Recrystallization of this product from ethyl acetate-diethyl ether-n-hexane gave 2.15 g (yield: 67.8%) of BOC-Thr(Bzl)-Tyr(Bzl)-Pro-OH melting at 134° to 137° C. Rf1 =0.46, Rf3 =0.24.

reactant | BOC-Thr(Bzl)-Tyr(Bzl)-Pro-OBzl | 3.60 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C44H51N3O8
reactant | sodium hydroxide | 1N, 5.83 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | BOC-Thr(Bzl)-Tyr(Bzl)-Pro-OH | 2.15 g, yield: 67.8% | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C37H45N3O8
